US09279806B2
In a suspension of 4,4′-bis(8-bromooctyloxy)benzophenone (1.0 g, 1.7 mmol) in 50 mL of THF were added TiCl4 (0.19 mL, 1.7 mmol) and Zn dust (0.22 g, 3.4 mmol). After refluxing for 20 h, the reaction mixture was cooled to room temperature and filtered. The solvent was evaporated under vacuum and the crude product was purified by a silica gel column using a chloroform/hexane (1:1 v/v) mixture as eluent. 1,1,2,2-tetrakis[4-(8-bromooctyloxy)phenyl]-ethene was obtained as yellow viscous liquid in 62% yield (0.6 g). Rf=0.5 (chloroform/hexane=1:1). 1H NMR (400 MHz, CDCl3), δ (ppm): 6.99-6.90 (m, 8H), 6.63-6.60 (m, 8H), 3.87-3.80 (m, 8H), 3.41-3.39 (m, 8H), 1.86-1.70 (m, 16H), 1.34-1.26 (m, 32H). 13C NMR (100 MHz, CDCl3), δ (ppm): 157.9, 137.5, 133.2, 129.9, 114.2, 68.3, 55.6, 34.7, 33.4, 29.9, 29.3, 28.7, 26.6.

reactant | 4,4′-bis(8-bromooctyloxy)benzophenone | 1.7 mmol, 1.0 g | BrCCCCCCCCOC1=CC=C(C(=O)C2=CC=C(C=C2)OCCCCCCCCBr)C=C1 | C29H40Br2O3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | TiCl4 | 1.7 mmol, 0.19 mL | Cl[Ti](Cl)(Cl)Cl
catalyst | Zn | 3.4 mmol, 0.22 g | [Zn] | Zn
product | 1,1,2,2-tetrakis[4-(8-bromooctyloxy)phenyl]-ethene | 62% yield | BrCCCCCCCCOC1=CC=C(C=C1)C(=C(C1=CC=C(C=C1)OCCCCCCCCBr)C1=CC=C(C=C1)OCCCCCCCCBr)C1=CC=C(C=C1)OCCCCCCCCBr | C58H80Br4O4
